US04497650
2,10-Dihydro-2,2,3,10-tetramethyl-1,3,5-triazino[1,2-a]benzimidazol-4(3H)-one
A mixture of 2.0 g (0.0087 mole) 1,2-dihydro-2,2,3-trimethyl-1,3,5-triazino[1,2-a]benzimidazol-4(3H)-one, 1.1 ml (0.0174 mole) methyl iodide, anhydrous potassium carbonate (1 gram) and acetone (100 ml) was heated under reflux, with stirring, overnight. After refluxing had continued 21 hours an additional 1 ml of methyl iodide was added and solids removed from the mixture by suction filtration. The filtrate was evaporated under reduced pressure and the resulting residue dissolved in ethyl acetate, washed with water, then with brine and dried over MgSO4, filtered and solvent stripped off to give 1.8 g of crude product. Purification by high pressure liquid chromatography gave a solid, mp 79°-82° C.

reactant | 1,2-dihydro-2,2,3-trimethyl-1,3,5-triazino[1,2-a]benzimidazol-4(3H)-one | 0.0087 mole, 2.0 g | CC1(NC2=NC3=C(N2C(N1C)=O)C=CC=C3)C | C12H14N4O
reactant | methyl iodide | 0.0174 mole, 1.1 ml | CI | CH3I
reactant | potassium carbonate | 1 gram | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 1 ml | CI | CH3I
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 2,10-Dihydro-2,2,3,10-tetramethyl-1,3,5-triazino[1,2-a]benzimidazol-4(3H)-one | 1.8 g | CC1(N=C2N(C3=C(N2C(N1C)=O)C=CC=C3)C)C | C13H16N4O
